US06451724B1
21.9 g (0.1 mol) of N-methyl-5,6-dihydroindeno[2,1-b]indole, prepared in Example 5, and 200 ml of DMFA were placed into a bulb and the resulting mixture was heated under stirring to 50° C. 3.4 g (0.05 mol) of NaOEt were added to the mixture and the resulting solution was stirred for 10 minutes and then treated with 3.8 ml 37% formaline. The resulting mixture was stirred for 2 hours at 75° C.; then it was cooled to room temperature and treated with 5.3 g of NH4Cl. The precipitate was filtered, washed twice with DMFA (30 ml) and with ether, and finally dried thus yielding 20 g of the ligand 6-[(N-methyl-5,6-dihydroindeno[2,1-b]indol-6-yl)methyl]-N-methyl-5,6-dihydroindeno[2,1-b]indole (yield=90%).

reactant | N-methyl-5,6-dihydroindeno[2,1-b]indole | 0.1 mol, 21.9 g | CN1C2=C(C3=CC=CC=C13)C1=CC=CC=C1C2 | C16H13N
reactant | NaOEt | 0.05 mol, 3.4 g | CC[O-].[Na+]
reactant | formaline | 3.8 ml | C=O | CH2O
reactant | NH4Cl | 5.3 g | [NH4+].[Cl-]
reactant | DMFA | 200 ml | CN(C)C=O | C3H7NO
product | 6-[(N-methyl-5,6-dihydroindeno[2,1-b]indol-6-yl)methyl]-N-methyl-5,6-dihydroindeno[2,1-b]indole | yield=90% | CN1C2=C(C3=CC=CC=C13)C1=CC=CC=C1C2CC2C1=CC=CC=C1C1=C2N(C2=CC=CC=C12)C | C33H26N2
